US06800619B2
[3S/R, (2S)]-5-Fluoro-4-oxo-3-{[1-(phenothiazine-10-carbonyl)piperidine-2-carbonyl]amino}-pentanoic acid tert-butyl ester
A stirred solution of [3S/R, 4S/R (2S)]-5-fluoro-4-hydroxy-3-{[1-(phenothiazine-10-carbonyl)piperidine-2-carbonyl]amino}-pentanoic acid tertbutyl ester (294 mg, 0.541 mmol) in anhydrous DCM (10 mL) was treated with 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (344 mg, 0.812 mmol) at 0° C. The resulting mixture was allowed to warm to room temperature over 2 h, diluted with ethyl acetate, then poured into a 1:1 mixture of saturated aqueous sodium hydrogen carbonate and saturated aqueous sodium thiosulphate. The organic layer was removed and the aqueous layer re-extracted with ethyl acetate. The combined organic extracts were dried (Na2SO4) and concentrated. The residue was purified by flash chromatography (30% ethyl acetate in hexane) to afford the sub-title compound as a pale pink foam (220 mg, 75%): 1H NMR (400 MHz, CDCl3) δ 0.84-0.96 (1H, m), 1.20-1.40 (10H, m+2s), 1.51-1.56 (3H, m), 2.20-2.27 (1H, m), 2.70-2.98 (3H, m), 3.49-3.63 (1H, m), 4.74-5.24 (4H, m), 7.14-7.18 (2H, m), 7.28-7.38 (4H, m), 7.48-7.79 (3H, m); 13C (100 MHz, CDCl3) δ 20.8/21.0 (CH2), 23.7/23.9 (CH2), 25.8/25.9 (CH2), 28.2/28.3 (CH3), 36.8/36.9 (CH2), 46.0/46.1 (CH2), 52.9 (CH), 56.8 (CH), 82.6 (C), 84.4/84.5 (2d, J 184.0/183.3, CH2F), 123.7/123.8 (CH), 126.1 (CH), 128.0/128.1 (CH), 128.2/128.3 (CH), 130.4/130.5 (C), 141.4 (C), 160.0 (C), 170.0 (C), 171.7 (C), 202.9 (C); 19F (376 MHz, CDCl3) δ -231.9 (t), −232.2 (t).

reactant | 5-fluoro-4-hydroxy-3-{[1-(phenothiazine-10-carbonyl)piperidine-2-carbonyl]amino}-pentanoic acid tertbutyl ester | 0.541 mmol, 294 mg | C(C)(C)(C)OC(CC(C(CF)O)NC(=O)C1N(CCCC1)C(=O)N1C2=CC=CC=C2SC=2C=CC=CC12)=O | C28H34FN3O5S
reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 0.812 mmol, 344 mg | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulphate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Fluoro-4-oxo-3-{[1-(phenothiazine-10-carbonyl)piperidine-2-carbonyl]amino}-pentanoic acid tert-butyl ester | 220 mg, 75% | C(C)(C)(C)OC(CC(C(CF)=O)NC(=O)C1N(CCCC1)C(=O)N1C2=CC=CC=C2SC=2C=CC=CC12)=O | C28H32FN3O5S
